US04209458
Synthesis of 1,3-Bis(3,4-Dicyanophenyl)Perfluoropropane.
1,3-Diiodoperfluoropropane (2.0 g, 5 mmol), 1.8 g (30 meq) of activated copper, 2.5 g (10 mmol) of 4-iodophthalonitrile and 6 ml of dry dimethyl sulfoxide were purged for 15 minutes with argon and the mixture was then heated at 115°-120° C. for 4 hours. After cooling, the content was poured into 100 ml of water and extracted with four 50 ml portions of ether. The combined ethereal extract was washed with water, charcoaled, dried over anhydrous sodium sulfate and concentrated at reduced pressure to afford 1.1 g (52%) of product, m.p 133°-135° C.

reactant | 1,3-Diiodoperfluoropropane | 5 mmol, 2.0 g | IC(C(C(I)(F)F)(F)F)(F)F | C3F6I2
reactant | 4-iodophthalonitrile | 10 mmol, 2.5 g | IC=1C=C(C(C#N)=CC1)C#N | C8H3IN2
reactant | dimethyl sulfoxide | 6 ml | CS(=O)C | C2H6OS
catalyst | copper | 1.8 g, 30 meq | [Cu] | Cu
solvent | water | 100 ml | O | H2O
product | 1,3-Bis(3,4-Dicyanophenyl)Perfluoropropane | 1.1 g, 52% | C(#N)C=1C=C(C=CC1C#N)C(C(C(C1=CC(=C(C=C1)C#N)C#N)(F)F)(F)F)(F)F | C19H6F6N4
